US06268499B1
11 g (46.3 mmol) crude (3R,4R,5S)-5-ethoxy-4-(4-hydroxy-phenyl)-piperidin-3-ol were dissolved in 100 ml dioxane/50 ml water and treated with 11 g (50 mmol) di-tert-butyldicarbonate and 8.4 g (100 mmol) sodium hydrogencarbonate. The reaction mixture was then stirred for 2 hours. 100 ml 2 N NaOH were then added and the mixture again stirred for an additional hour. It was then acidified with solid citric acid. Then, the resulting product was extracted 3 times with dichloromethane, the organic phases were washed twice with distilled water, then dried over magnesium sulphate, filtered and concentrated in a water-jet vacuum. The resulting crude product was chromatographed on silica gel with dichloromethanelethyl acetate to yield (3R,4R,5S)-5-ethoxy-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butylester as colorless oil; MS: 338 (M+H+).

reactant | (3R,4R,5S)-5-ethoxy-4-(4-hydroxy-phenyl)-piperidin-3-ol | 46.3 mmol, 11 g | C(C)O[C@H]1[C@@H]([C@H](CNC1)O)C1=CC=C(C=C1)O | C13H19NO3
reactant | di-tert-butyldicarbonate | 50 mmol, 11 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | 100 mmol, 8.4 g | C(O)([O-])=O.[Na+]
reactant | NaOH | 2 N, 100 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (3R,4R,5S)-5-ethoxy-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butylester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OCC)C1=CC=C(C=C1)O)O | C18H27NO5
